US03975537
A mixture of 7.5 g. (0.025 mol.) of 2-n-butyl-3-(2'-hydroxybenzoyl)benzofuran, 25 ml. of epichlorohydrin and 15.0 g. of potassium carbonate in 150 ml. of ethanol was refluxed for three hours. After cooling the reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in water and the aqueous solution was extracted with methylene chloride. The extracts were combined, dried (Na2SO4) and concentrated to give an oily residue that was chromatographed on alumina with chloroform as the eluant to give 2-n-butyl-3-[2'-(2,3-epoxy)propoxybenzoyl]benzofuran.

reactant | 2-n-butyl-3-(2'-hydroxybenzoyl)benzofuran | 0.025 mol | C(CCC)C=1OC2=C(C1C(C1=C(C=CC=C1)O)=O)C=CC=C2 | C19H18O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-butyl-3-[2'-(2,3-epoxy)propoxybenzoyl]benzofuran | C(CCC)C=1OC2=C(C1C(C1=C(C=CC=C1)OCC1CO1)=O)C=CC=C2 | C22H22O4
